US04769472
3-(2-Methoxyphenyl)-1H-thieno[3,2-c]pyrazole
A mixture of 5.23 g of (3-bromthien-2-yl) (2-methoxyphenyl)methanone hydrazone and 47 ml of ethoxyethanol was heated at 75° C. and to it a solution of potassium hydroxide in water (1.88 g in 9.15 ml) was added. The reaction mixture was blanketed with nitrogen. After stirring for 10 minutes, 50 mg of CuCl was then added and stirring was continued until completion of the reaction (45 minutes). The reaction mixture was then allowed to cool to room temperature, quenched with water and the organics were extracted into ether/ethyl acetate (1:1). Washing, drying (over anhydrous magnesium sulfate) and then evaporation of the ether/ethyl acetate solution gave an oil containing some crystals. The oil was passed through a silica gel column packed in dichloromethane to give 2.07 g of crystals. This material was combined with another material prepared in the same manner. The combined product (3.1 g) was recrystallized from ether/hexane.

reactant | (3-bromthien-2-yl) (2-methoxyphenyl)methanone hydrazone | 5.23 g | BrC1=C(SC=C1)C(=NN)C1=C(C=CC=C1)OC | C12H11BrN2OS
reactant | ethoxyethanol | 47 ml | C(C)OC(C)O | C4H10O2
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | 9.15 ml, 1.88 g | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | CuCl | 50 mg | Cl[Cu]
product | 3-(2-Methoxyphenyl)-1H-thieno[3,2-c]pyrazole | 2.07 g | COC1=C(C=CC=C1)C=1C2=C(NN1)C=CS2 | C12H10N2OS
